US04438128
1-Phenoxy-3-[2-(4-methoxyisoquinolin-1-ylamino)-ethylamino]-propan-2-ol
5.2 g. Phenyl glycidyl ether and 15 g. 4-methoxy-1-(2-aminoethylamino)-isoquinoline are dissolved in dimethylformamide and left to stand for 72 hours at ambient temperature. The reaction mixture is then poured into water, extracted with methylene chloride, dried and purified chromatographically on a silica gel column using, as elution agent, methylene chloride-methanol-triethylamine (8:1:0.05 v/v/v). By evaporation of the pure fractions, there are obtained 5.5 g. (44% of theory) of an oil. By the addition of 1.7 g. fumaric acid to a solution of this oil in ethyl acetate-ethanol, a hydrogen fumarate is precipitated out and this is then recrystallized from isopropyl alcohol. The desired product is obtained in the form of colorless cyrstals; m.p. 152°-153° C.

reactant | Phenyl glycidyl ether | C(C1CO1)OC1=CC=CC=C1 | C9H10O2
reactant | 4-methoxy-1-(2-aminoethylamino)-isoquinoline | COC1=CN=C(C2=CC=CC=C12)NCCN | C12H15N3O
reactant | water | O | H2O
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 1-Phenoxy-3-[2-(4-methoxyisoquinolin-1-ylamino)-ethylamino]-propan-2-ol | O(C1=CC=CC=C1)CC(CNCCNC1=NC=C(C2=CC=CC=C12)OC)O | C21H25N3O3
